US06441017B1
Step G: (R)-3-(tert-Butoxycarbonylamino)-1-[7-(tert-butyldimethylsilyloxy) naphthalen-1-yl]-2-thioxopyrrolidine
A mixture of (R)-3-(tert-butoxycarbonylamino)-1-[7-(tert-butyl-dimethylsilyloxy)naphthalen-1-yl]-2-oxopyrrolidine, as described above in Step F, (113 mg, 0.247 mmol) and Lawesson's Reagent (50 mg, 0.124 mmol) in dry toluene (0.5 mL), under argon, was heated to 80° C. for 1 hour. The reaction mixture was allowed to cool, then poured directly onto a silica gel column and chromatographed, eluting with a gradient of hexane—5% to 25% EtOAc to yield the titled product as a clear oil.

reactant | (R)-3-(tert-butoxycarbonylamino)-1-[7-(tert-butyl-dimethylsilyloxy)naphthalen-1-yl]-2-oxopyrrolidine | C(C)(C)(C)OC(=O)N[C@H]1C(N(CC1)C1=CC=CC2=CC=C(C=C12)O[Si](C)(C)C(C)(C)C)=O | C25H36N2O4Si
reactant | Lawesson's Reagent | 0.124 mmol, 50 mg | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
solvent | toluene | 0.5 mL | C1(=CC=CC=C1)C | C7H8
product | (R)-3-(tert-Butoxycarbonylamino)-1-[7-(tert-butyldimethylsilyloxy) naphthalen-1-yl]-2-thioxopyrrolidine | C(C)(C)(C)OC(=O)N[C@H]1C(N(CC1)C1=CC=CC2=CC=C(C=C12)O[Si](C)(C)C(C)(C)C)=S | C25H36N2O3SSi
